US06384072B1
A mixture of [5-(tert-butyldiphenylsilyloxy)-1,1a,2,3,4,8b-hexahydrobenzo[a]cyclopropa[c]cyclohepten-1a-yl]methanol (639 mg) and diphenylcarbamoyl chloride (1.0 g) in pyridine (6 ml) was stirred at 100° C. for 22 hours. After cooling, the reaction mixture was poured into 6N-hydrochloric acid (16 ml) under ice-cooling. The resultant was extracted with EtOAc. The organic layer was washed with water, saturated sodium hydrogencarbonate solution, water, and then brine. It was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 12:1 to 10:1) to give [5-(tert-butyldiphenylsilyloxy)-1,1a,2,3,4,8b -hexahydrobenzo[a]cyclopropa[c]cyclohepten-1a-yl]methyl N,N-diphenylcarbamate (782.2 mg) as an amorphous solid.

reactant | [5-(tert-butyldiphenylsilyloxy)-1,1a,2,3,4,8b-hexahydrobenzo[a]cyclopropa[c]cyclohepten-1a-yl]methanol | 639 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=CC2=C1CCCC1(C2C1)CO | C29H34O2Si
reactant | diphenylcarbamoyl chloride | 1.0 g | C1(=CC=CC=C1)N(C(=O)Cl)C1=CC=CC=C1 | C13H10ClNO
reactant | hydrochloric acid | 16 ml | Cl | ClH
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | [5-(tert-butyldiphenylsilyloxy)-1,1a,2,3,4,8b -hexahydrobenzo[a]cyclopropa[c]cyclohepten-1a-yl]methyl N,N-diphenylcarbamate | 782.2 mg | C1(=CC=CC=C1)N(C(OCC12C(C3=C(CCC1)C(=CC=C3)O[Si](C3=CC=CC=C3)(C3=CC=CC=C3)C(C)(C)C)C2)=O)C2=CC=CC=C2 | C42H43NO3Si
